US09290487B2
Step 1 Synthesis of 1,3-dibromo-2-(2-chloroethoxy)-5-fluorobenzene
DMF (50 mL), 1-bromo-2-chloroethane (1.0 mL, 12 mmol), and potassium carbonate (1.7 g, 12 mmol) were added to 2,6-dibromo-4-fluorophenol (3.0 g, 11 mmol), and stirred at 50° C. overnight. Ethyl acetate was used as an extraction solvent, and after washing with water and saturated brine, and the resultant was dried over magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel column chromatography to thus obtain the title compound.

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | 1-bromo-2-chloroethane | 12 mmol, 1.0 mL | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 12 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dibromo-4-fluorophenol | 11 mmol, 3.0 g | BrC1=C(C(=CC(=C1)F)Br)O | C6H3Br2FO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-dibromo-2-(2-chloroethoxy)-5-fluorobenzene | yield: 56% | BrC1=C(C(=CC(=C1)F)Br)OCCCl | C8H6Br2ClFO
